US05405854
A solution of 57.8 g of di-tert-butyl dicarbonate in 300 ml of dioxane is added dropwise at room temperature to a solution of 29.2 g of 3-cyclopropylamino-propionitrile in 300 ml of dioxane. The solution is stirred at room temperature overnight and then evaporated. There are obtained 58.1 g of crude tert-butyl (2-cyanoethyl)-cyclopropyl-carbamate, MS (FAB): 154 (M-isobutylene).

reactant | di-tert-butyl dicarbonate | 57.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-cyclopropylamino-propionitrile | 29.2 g | C1(CC1)NCCC#N | C6H10N2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | tert-butyl (2-cyanoethyl)-cyclopropyl-carbamate | 58.1 g | C(#N)CCN(C(OC(C)(C)C)=O)C1CC1 | C11H18N2O2
